****** for data ****
******Vin = Va1
******Vout1 = lin1
******Vout2 = lin2
******Vout3 = vout1
******Vout4 = vout2
******
******Sweep parameters:
******Static=Cload1, 100f<Cload<3p
******10p<Trise, Tfall<0.15n
******0.7n<period1<1.2n,



.include techfile130.pm
.param supply1 = 1.2V 
.param supply2 = 1.2V 
.param length = 4n 
.param wpmos=2500n wnmos=1000n 
.param tr1 = 0.1n
.param tr2 = 0.1n
.param cfar_end1 = 11p
.param cfar_end2 = 3p
.param rnear_end1 = 50
.param rnear_end2 = 5e6
.param period1 = 0.9n
.param Cload1 = 1p

vcapacitor vcap 0 {Cload1}

vsupply1 vdd 0 {supply1}
vgnd vss 0 0V

* Inputs to drivers
vinTL1 va1 vss PULSE(0 {supply1} {0.02*period1} {tr1} {tr1} {0.5*period1} {period1})
*vinTL2 va2 vss PULSE(0 {supply2} {0.02*period1} {tr2} {tr2} {0.5*period1} {period1})

******************Three Stage Driver******************************
.SUBCKT ThreeDriver va voutc vdd vss PARAMS: l=length wpmos=wpmos wnmos=wnmos 
Mpa vout va vdd vdd pmos l={length} w={wpmos} ; pmos 
Mna vout va vss vss nmos l={length} w={wnmos} ; nmos

Mpb voutb vout vdd vdd pmos l={length} w={3.14*wpmos} ; pmos 
Mnb voutb vout vss vss nmos l={length} w={3.14*wnmos} ; nmos

Mpc voutc voutb vdd vdd pmos l={length} w={9.8696*wpmos} ; pmos
Mnc voutc voutb vss vss nmos l={length} w={9.8696*wnmos} ; nmos
.ENDS ThreeDriver

******************Four Stage Driver******************************
.SUBCKT FourDriver va voutd vdd vss PARAMS: l=length wpmos=wpmos wnmos=wnmos 
Mpa vout va vdd vdd pmos l={length} w={wpmos} ; pmos 
Mna vout va vss vss nmos l={length} w={wnmos} ; nmos

Mpb voutb vout vdd vdd pmos l={length} w={3.14*wpmos} ; pmos 
Mnb voutb vout vss vss nmos l={length} w={3.14*wnmos} ; nmos

Mpc voutc voutb vdd vdd pmos l={length} w={9.8696*wpmos} ; pmos
Mnc voutc voutb vss vss nmos l={length} w={9.8696*wnmos} ; nmos

Mpd voutd voutc vdd vdd pmos l={length} w={31.0063*wpmos} ; pmos
Mnd voutd voutc vss vss nmos l={length} w={31.0063*wnmos} ; nmos
.ENDS FourDriver 

******************Six Stage Driver******************************
.SUBCKT SixDriver va voutf vdd vss PARAMS: l=length wpmos=wpmos wnmos=wnmos 
Mpa vout va vdd vdd pmos l={length} w={wpmos} ; pmos 
Mna vout va vss vss nmos l={length} w={wnmos} ; nmos

Mpb voutb vout vdd vdd pmos l={length} w={3.14*wpmos} ; pmos 
Mnb voutb vout vss vss nmos l={length} w={3.14*wnmos} ; nmos

Mpc voutc voutb vdd vdd pmos l={length} w={9.8696*wpmos} ; pmos
Mnc voutc voutb vss vss nmos l={length} w={9.8696*wnmos} ; nmos

Mpd voutd voutc vdd vdd pmos l={length} w={31.0063*wpmos} ; pmos
Mnd voutd voutc vss vss nmos l={length} w={31.0063*wnmos} ; nmos

Mpe voute voutd vdd vdd pmos l={length} w={97.21*wpmos} ; pmos
Mne voute voutd vss vss nmos l={length} w={97.21*wnmos} ; nmos

Mpf voutf voute vdd vdd pmos l={length} w={305.244*wpmos} ; pmos
Mnf voutf voute vss vss nmos l={length} w={305.244*wnmos} ; nmos
.ENDS SixDriver 

******************** 2 coupled lines TL *************
.model PLINE2 CPL length={Len} 
+R={P2R11} {P2R12} {P2R22}
+L={P2L11} {P2L12} {P2L22} 
+G={P2G11} {P2G12} {P2G22} 
+C={P2C11} {P2C12} {P2C22}
.param Len=0.25 Rs=50 
+ P2R11=7.5 P2R12=1 P2R22=7.5
+ P2C11=12p P2C12=-6p P2C22=12p
+ P2L11=2*4.9n P2L12=2*2.9n P2L22=2*4.9n
+ P2G11=10m P2G12=-1m P2G22=10m
* Transmission lines connected to driver -  coupled lines (2 coupled-line format)

Xfour1 in1 lin1 vdd vss FourDriver l=length wpmos=wpmos wnmos=wnmos
* Xfour2 in2 lin2 vdd vss FourDriver l=length wpmos=wpmos wnmos=wnmos


P1 lin1 lin2 0 vout1 vout2 0 PLINE2  

Rdr	va1 in1 50
Rin2 in2 0 rnear_end1

Cload vout1 vss1 Cload1
Ccrosstalk1 vout2 0 cfar_end1


vdc0 vss1 vss dc 0V
.tran 0.1n {5*period1}; 0 0.1n
.control
	set wr_singlescale
    run 
 	* plot v(va1) v(in1) v(in2) v(vout1) v(Crosstalk1) 
 	wrdata Interconnect_Exp2_train1.txt v(va1) v(vcap) v(lin1) v(lin2) v(vout1) v(vout2) 
    * quit
.endc
.End